US05529999
Preparation of N-(5-chloro-2-quinoxalinyl)benzofuran-5-sulfonamide
In a manner similar to Example 4, the reaction mixture from benzofuran-5-sulfonamide (397 mg, 2.01 mmol), sodium hydride (60%, 315 mg, 7.9 mmol) and 2,5-dichloroquinoxaline (600 mg, 3.01 mmol) was poured carefully into water and washed with hexanes. The hexane-free aqueous was acidified to a pH of 1-2 by the addition of 5N hydrochloric acid solution and the resulting precipitate was collected and dried. This precipitate was washed with methylene chloride and the solid obtained by evaporation of the filtrate was purified by radial silica gel chromatography (EtOAc/hexanes) followed by silica gel flash chromatography (diethyl ether/hexanes). The resulting foam which was broken up in hexanes, collected and dried, finally under vacuum at 80° C. to yield the title product (110 mg, 15%) as a solid.

reactant | benzofuran-5-sulfonamide | 2.01 mmol, 397 mg | O1C=CC2=C1C=CC(=C2)S(=O)(=O)N | C8H7NO3S
reactant | sodium hydride | 7.9 mmol, 315 mg | [H-].[Na+]
reactant | 2,5-dichloroquinoxaline | 3.01 mmol, 600 mg | ClC1=NC2=CC=CC(=C2N=C1)Cl | C8H4Cl2N2
solvent | water | O | H2O
product | N-(5-chloro-2-quinoxalinyl)benzofuran-5-sulfonamide | 110 mg, 15% | ClC1=C2N=CC(=NC2=CC=C1)NS(=O)(=O)C=1C=CC2=C(C=CO2)C1 | C16H10ClN3O3S
